US04748244
2 g of 5-propylpyridine-2,3-dicarboxylic acid together with 25 ml of acetic anhydride and 2 g of anhydrous sodium acetate are heated for 1 hour at 70° C. After removal of the acetic anhydride by evaporation, the residue is partitioned between water and chloroform and the organic phase is dried over MgSO4 and then concentrated by evaporation. The residue is crystallised from ether/hexane, affording 5-propylpyridine-2,3-dicarboxylic anhydride with a melting point of 42°-44° C.

reactant | 5-propylpyridine-2,3-dicarboxylic acid | 2 g | C(CC)C=1C=C(C(=NC1)C(=O)O)C(=O)O | C10H11NO4
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 2 g | C(C)(=O)[O-].[Na+]
product | 5-propylpyridine-2,3-dicarboxylic anhydride | C(CC)C=1C=C2C(=NC1)C(=O)OC2=O | C10H9NO3
